US08609731B2
N-[(S)-6-(2-Oxoethyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide
A mixture of N-((S)-6-allyl-1,2,3,4-tetrahydronaphthalen-2-yl)-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide (0.50 g), 2-propanol (50 ml) and water (50 ml) was admixed with sodium periodate (0.60 g) and osmium tetroxide (1.3 mg). After stirring vigorously for 14 hours, the reaction mixture was extracted with ethyl acetate. The organic phase was washed with sodium chloride solution, dried over sodium sulfate and concentrated. The product was thus obtained with the molecular weight of 393.49 (C24H27NO4); MS (ESI): 394 (M+H+).

reactant | N-((S)-6-allyl-1,2,3,4-tetrahydronaphthalen-2-yl)-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide | 0.50 g | C(C=C)C=1C=C2CC[C@@H](CC2=CC1)NC(C1=CC=C(C=C1)OC[C@H]1OCCC1)=O | C25H29NO3
reactant | 2-propanol | 50 ml | CC(C)O | C3H8O
reactant | sodium periodate | 0.60 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | osmium tetroxide | 1.3 mg | [Os](=O)(=O)(=O)=O
solvent | water | 50 ml | O | H2O
product | N-[(S)-6-(2-Oxoethyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide | O=CCC=1C=C2CC[C@@H](CC2=CC1)NC(C1=CC=C(C=C1)OC[C@H]1OCCC1)=O | C24H27NO4
